US09216991B2
Intermediate 7: 1-Pyrrolidin-1-yl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-ethanone
A solution of 1-(bromoacetyl)pyrrolidine (Chemical Diversity Labs; 3.0 g, 15.6 mmol, 1.2 eq.) in acetonitrile (15 mL) was slowly added over a suspension of pyrazole-4-boronic acid pinacol ester (2.5 g, 12.9 mmol, 1 eq.) in acetonitrile and stirred overnight at RT. The reaction mixture was filtered and the filtrate was diluted with DCM and washed with water then brine. Separated organic phase was dried over magnesium sulfate, filtered and concentrated to give the title compound as a yellow oil (2.72 g, 100%).

reactant | 1-(bromoacetyl)pyrrolidine | 15.6 mmol, 3.0 g, 1.2 eq. | BrCC(=O)N1CCCC1 | C6H10BrNO
reactant | pyrazole-4-boronic acid pinacol ester | 12.9 mmol, 2.5 g, 1 eq. | N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C9H15BN2O2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 1-Pyrrolidin-1-yl-2-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-ethanone | 2.72 g, 100% | N1(CCCC1)C(CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)=O | C15H24BN3O3
